US04857543
A solution of diisopropylamine (2.65 g) in tetrahydrofuran is cooled to -60° C. and 1.6M n-butyl lithium/hexane solution (14 ml) is added dropwise thereto in nitrogen atmosphere. The mixture is stirred at the same temperature, whereby the solution containing lithium diisopropylamide is obtained. A solution of 1-(2-thienyl)propyl isocyanide (2.8 g) in tetrahydrofuran is added dropwise to the solution obtained above at -60° C. and the mixture is stirred at the same temperature for 20 minutes. A solution of 2-(3,4,5-trimethoxyphenylthio)ethyl chloride (5.9 g) in tetrahydrofuran is added dropwise to the mixture at -60° C. and the mixture is stirred at -30° C. in nitrogen atmosphere for 2 hours. Acetic acid is added to the mixture to cease the reaction and ether is added to the reaction mixture. The mixture is washed, dried and concentrated under reduced pressure to remove solvent. The residue is purified by silica gel chromatography, whereby 1-ethyl-3-(3,4,5-trimethoxyphenylthio)-1-(2-thienyl)propyl isocyanide (5.2 g) is obtained as red oil.

reactant | diisopropylamine | 2.65 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium hexane | 1.6M, 14 ml | C(CCC)[Li].CCCCCC
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-(2-thienyl)propyl isocyanide | 2.8 g | S1C(=CC=C1)C(CC)[N+]#[C-] | C8H9NS
reactant | 2-(3,4,5-trimethoxyphenylthio)ethyl chloride | 5.9 g | COC=1C=C(C=C(C1OC)OC)SCCCl | C11H15ClO3S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | Acetic acid | C(C)(=O)O | C2H4O2
product | 1-ethyl-3-(3,4,5-trimethoxyphenylthio)-1-(2-thienyl)propyl isocyanide | 5.2 g | C(C)C(CCSC1=CC(=C(C(=C1)OC)OC)OC)(C=1SC=CC1)[N+]#[C-] | C19H23NO3S2
